US04381395
A solution of 2-(5-methylimidazol-4-ylmethylthio)ethylisothiocyanate [obtained from its hydrochloride (4.17 g)] in CHCl3 (20 ml) was added to a solution of cyanamide (1.05 g) and DBU (3.80 g) in CHCl3 (50 ml) and stirred overnight. After concentration, the residue was dissolved in water (30 ml) and washed with ether, decolorized with charcoal and acidified to pH 5 with 10% HCl under ice-cooling. The precipitate was filtered, washed with water and dried to give N-cyano-N'-[2-(5-methylimidazol-4-ylmethylthio)ethyl]thiourea(mono-hydrate, 3.57 g). Yield 78.1%, m.p. 158°-161° C.

reactant | 2-(5-methylimidazol-4-ylmethylthio)ethylisothiocyanate | 4.17 g | CC1=C(N=CN1)CSCCN=C=S | C8H11N3S2
reactant | cyanamide | 1.05 g | N#CN | CH2N2
reactant | DBU | 3.80 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-cyano-N'-[2-(5-methylimidazol-4-ylmethylthio)ethyl]thiourea | 3.57 g, Yield 78.1% | C(#N)NC(=S)NCCSCC=1N=CNC1C | C9H13N5S2
